* Z:\mnt\design.r\spice\examples\3886.asc
V1 IN 0 30
C1 0 N001 1µ
M§Q1 IN N002 N004 N004 RJK0305DPB
M§Q2 N004 N008 0 0 RJK0301DPB
L1 N007 OUT0 6.82µ
C2 N005 N004 .1µ
D1 N001 N005 CMDSH2-3
C3 N011 OUT0 .22µ
R1 N007 N011 7.5K
C5 OUT1 0 530µ
R2 OUT1 0 .33
M§Q3 IN N003 N007 N007 RJK0305DPB
M§Q4 N007 N009 0 0 RJK0301DPB
L2 N004 OUT1 3.1µ
C7 N006 N007 .1µ
D2 N001 N006 CMDSH2-3
C8 N010 OUT1 .22µ
R11 N004 N010 6.81K
C9 OUT0 0 530µ
R12 OUT0 0 1
C4 N013 0 220p
C6 N015 0 2.2n
C10 N012 0 220p
C11 N014 0 4.7n
R3 N016 N017 10K
R4 N020 N016 4.99K
R5 N019 N021 24.9K
R6 N021 0 11.3K
R7 N016 N018 10K
C12 N019 0 1µ
C13 N016 0 1µ
XU1 OUT0 0 N010 OUT1 N015 N011 OUT0 N020 NC_01 N013 N012 MP_02 MP_03 N018 N017 MP_04 N021 NC_05 NC_06 MP_07 MP_08 N019 MP_09 MP_10 N016 N014 OUT1 MP_11 N004 N002 N005 N008 N001 0 IN N009 N006 N003 N007 MP_12 0 LTC3886 Vout_0=12 Vout_1=5 Ilim0_range=1 Ilim1_range=1 OC_limit0=1 OC_limit1=1 Mode_ll=2 Fault_response=0 Retry_delay=.1m gm0=3m gm1=3m Rth0=5K Rth1=5K Freq=500K PHs_0=0 PHs_1=180 Ton0_delay=.3m Ton0_rise=.5m Ton1_delay=.3m Ton1_rise=.5m Toff0_delay=.2m Toff0_fall=.3m Toff1_delay=.2m Toff1_fall=.3m Vout0_range=0 Vout1_range=1
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1.6m startup
* Notes for simulation\n \nPlease read the following notes carefully since the model behaves differently from the user \ninterface for the LTC3886.\n \n(1) PMBus communication and memory address related functions and pins are not modeled.  \n(2) Changes to parameter values while the simulation is running will not take effect unless the\nsimulation is stopped and restarted. This is different from the way the part operates which will\nrespond to the changes while running.  \n(3) Share_clk is not modeled. The default time reference of LTspice is used as the common time \nbase for all time-related parameters.\n \n \nDescription of parameters\n \nThe following parameters can be defined by right-clicking on the LTC3886 symbol.\nThe nomenclature used here differs from the one in the data sheet. If any value of these parameters is\nset beyond the scope described in the data sheet, the resulting simulation will not be meaningful.\n \nFreq -- in Hz, sets switching frequency as one of values of 250k, 350k, 425k, 500k, 575k, 650k, 750k.\n          FREQ_CFG pin needs to float or short to VDD25;\nPHs_0 & PHs_1 -- in degree, set phase angle related to SYNC signal. \n                             Certain combinations are restricted as in data sheet;\nFREQ_CFG pin needs to float or short to VDD25, to make the value be in effect;\nTon0_delay & Ton0_rise; Ton1_delay & Ton1_rise -- in sec, set delay and soft-start timers for \n                channel0 and channel1. Initialization time is not modeled;\nToff0_delay & Toff0_fall; Toff1_delay & Toff1_fall -- in sec, set delay and soft-off timers for \n                channel0 and channel1;\nVout_0 & Vout_1 -- in volt, set output voltages respectively;\nVout0_range & Vout1_range -- set maximum output range, with value 0 for 14V, value 1 for 7V;\nIlim0_range & Ilim1_range -- set maximum sensed peak current range,\n                   with value 0 for low 50mV, and 1 for high 75mV;\nOC_limit0 & OC_limit1 -- set ratio of peak current limit to the maximum value defined by Ilimit_range.\n                    It must be one of these values: 0.5, 0.572, 0.642, 0.714, 0.786, 0.858, 0.928, 1;\nMode_II -- sets light load operation mode: 0 for discontinuous, 2 for forced continuous;\nFault_response -- sets the response mode of the LTC3886 to occurring faults:\n                                 0 for ignore, 1 for latch up, 2 for hiccup after Retry_delay time;\nRetry_delay -- in sec, sets the timer before the LTC3886 turns on after a fault;\n                      gm0, gm1 -- in A/V, sets the transconductance of the error amplifier;\nRth0, Rth1 -- in ohm, sets the value of resistor in series with compensation \n                           capacitor on pin IthR0 (or IthR1).
.lib LTC3886.sub
.backanno
.end
